US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-prop-2-enyl-1,4-diazepan-1-yl)benzamide
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-prop-2-enyl-1,4-diazepan-1-yl)benzamide was prepared using the same procedure as for Example 159, but starting from ethyl 4-(4-allyl-1,4-diazepan-1-yl)benzoate (0.288 g, 1 mmol, 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.247 g, 1 mmol) and a 2M solution of trimethylaluminium (1.250 mL, 2.50 mmol) in toluene. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford a gum, which solidified on trituration with DCM/Ether to afford the title compound (0.071 g, 14.50%).

reactant | ethyl 4-(4-allyl-1,4-diazepan-1-yl)benzoate | C(C=C)N1CCN(CCC1)C1=CC=C(C(=O)OCC)C=C1 | C17H24N2O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1 mmol, 0.247 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | trimethylaluminium | 2.50 mmol, 1.250 mL | C[Al](C)C
reactant | DCM Ether | C(Cl)Cl.CCOCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-(4-prop-2-enyl-1,4-diazepan-1-yl)benzamide | 0.071 g, 14.50% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1CCN(CCC1)CC=C)=O | C28H35N5O3
